datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH:10]C([H])C(C)C(CC)[NH][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C(CC)[NH]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[O]C([H])C(C)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C([H])C(C)[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C([H])C([H])[S][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C([H])C([H])[S]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"[H][O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C(CC)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C([H])[CH](C)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C)[O]2.C[NH:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)[H])C1=CC=CC=C1)[H]>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)[H])C1=CC=CC=C1)[O-:10])[H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[O-:10]C(C)/C(C)=C([H])\C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C([H])=C(C)C(C)[O:10]1 10=20;20,21=21"
"[O-:21][C:20]1(C)C(O)C(O)C([H])C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)C([H])C(O)C(O)[C:20](C)=[O:21] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]([O:21]C)([O]C)[S][H].[Cl-]>>[Cl-].CC[S:10][H].C[O+:21]=[C:20]([O]C)[S][H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)C)C>>CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)C)[O-:10])C 21=20;20,10=10"
"[O:10]([K])C(CCC)/C(C)=C([C:20]([H])=[O:21])/O>>[O-:21][C:20]1([H])[O+:10]([K])C(CCC)C(C)=C1O 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])CC)C)C1=CC=CC=C1)C1=CC=CC=C1>>[H]N([C:20]1(OC(C(C([O:21]1)CC)C)C1=CC=CC=C1)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])[H])C>>CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])[H])[O-:10])C 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C7=CC=CC=C7)C([H])[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OCCCCCC)C1=CC=CC=C1)C1=CC=CC=C1>>C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OCCCCCC)C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21]C)[S]C([H])C(CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C([H])C(CC)[S]2.CC[O:10][H] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C)[H])C)[O-:10])C>>CN([C:20](=[O:10])OC(C(C([O-:21])C)[H])C)C 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(C)C(C)C(C)C([H])[O+:10]1([K])>>[O:10]([K])C([H])C(C)C(C)C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21][H])[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.C[S:10][H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21]C)[O][CH](C)C([H])[CH](C)[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(CC)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C([H])[CH](CC)[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O]C(CC)C([H])[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[O]C(CC)C([H])[S]1 10=20;20,21=21"
"CC[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]CC)[S][H].[Cl-]>>[Cl-].CC[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]CC)[S][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])C)CCCCCC)[O-:10])C>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])C)CCCCCC)C 10=20;20,21=21"
"[OH:21][C:20]1([H])C(C)C(C)=C(C)C([H])[OH+:10]1>>[OH:10]C([H])/C(C)=C(C)\C(C)[C:20]([H])=[OH+:21] 21=20;20,10=10"
"[H][NH+:10](C(CC)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O]C(C)C(C)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[O]C(C)C(C)[S]1 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(C)C(O)C(C)C(CC)[NH+:10]1(C)>>[NH:10](C)C(CC)C(C)C(O)C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
